US07829560B2
N-[4-({2-[(3R)-3-(dimethylamino)pyrrolidin-1-yl]pyrimidin-4-yl}oxy)-1-naphthyl]-3-fluoro-5-morpholin-4-ylbenzamide (Compound B342).
Compound is prepared from 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide and (R)—N,N-dimethylpyrrolidin-3-amine according to conditions described in general procedure C. Mp: 115-117° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.70-2.10 (m, 2 H), 2.13 (s, 6 H), 2.68-3.10 (m, 5 H), 3.25 (t, J=4.4 Hz, 4 H), 3.74 (t, J=4.8 Hz, 4 H), 6.15 (bd, 1 H), 7.04 (d, J=12.0 Hz, 1 H), 7.24 (d, J=8.4 Hz, 1 H), 7.40-7.61 (m, 5 H), 7.84 (d, J=8.0 Hz, 1 H), 7.98 (d, J=8.4 Hz, 1 H), 8.22 (d, J=5.5 Hz, 1 H), 10.45 (s, 1 H).

reactant | 3-fluoro-N-(4-{[2-(methylsulfonyl)pyrimidin-4-yl]oxy}-1-naphthyl)-5-morpholin-4-ylbenzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OC2=NC(=NC=C2)S(=O)(=O)C)C=C(C1)N1CCOCC1 | C26H23FN4O5S
reactant | (R)—N,N-dimethylpyrrolidin-3-amine | CN([C@H]1CNCC1)C | C6H14N2
product | N-[4-({2-[(3R)-3-(dimethylamino)pyrrolidin-1-yl]pyrimidin-4-yl}oxy)-1-naphthyl]-3-fluoro-5-morpholin-4-ylbenzamide | CN([C@H]1CN(CC1)C1=NC=CC(=N1)OC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCOCC1)F)=O)C | C31H33FN6O3
